US04171318
A solution of 8.5 g. (24.5 mmol) of ethyl 2Z,4E-2-fluoro-3-methyl-5-(2,6-dichloro-3-methyl-4-methoxyphenyl)pentadienoate was stirred under argon and cooled to -45° C. Diisobutylaluminum hydride (DIBAH) was added slowly until three equivalents had been added and no starting material remained by tlc. Saturated aqueous sodium sulfate (5 ml.) was added at 31 10° C. and the mixture was allowed to warm to 30° C. for completion of hydrolysis. The mixture was filtered through Celite and the filtrate was evaporated. The residue was chromatographed on silica to give 6.0 g. (80% yield) of 2Z-4E-2-fluoro-3-methyl-5-(2,6-dichloro-3-methyl-4-methoxyphenyl)pentadien-1-ol.

reactant | ethyl 2Z,4E-2-fluoro-3-methyl-5-(2,6-dichloro-3-methyl-4-methoxyphenyl)pentadienoate | 24.5 mmol | F\C(\C(=O)OCC)=C(/C=C/C1=C(C(=C(C=C1Cl)OC)C)Cl)\C | C16H17Cl2FO3
reactant | Diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate | 5 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | 2Z-4E-2-fluoro-3-methyl-5-(2,6-dichloro-3-methyl-4-methoxyphenyl)pentadien-1-ol | 80% yield | F\C(=C/O)\C(=C\CC1=C(C(=C(C=C1Cl)OC)C)Cl)\C | C14H15Cl2FO2
